US08222245B2
1,1-Dimethylethyl 7-bromo-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate
7-Bromo-2,3,4,5-tetrahydro-1,4-benzoxazepine (Preparation 72) (2.15 g, 9.43 mmol) was dissolved in dichloromethane (20 ml). Added triethylamine (1.445 ml, 10.37 mmol) and bis(1,1-dimethylethyl) dicarbonate (2.263 g, 10.37 mmol). Stirred for 4 hours then added dichloromethane and washed with water (3×20 ml). Dried the mixture (MgSO4) and evaporated. Separated on biotage column eluting with (EtOAc/Hexane 1:9) and evaporated to give the title compound (2.76 g). MS (ES): C14H1881BrNO3 requires 329; found 230 [M+H−100]+.

reactant | 7-Bromo-2,3,4,5-tetrahydro-1,4-benzoxazepine | 9.43 mmol, 2.15 g | BrC=1C=CC2=C(CNCCO2)C1 | C9H10BrNO
reactant | triethylamine | 10.37 mmol, 1.445 ml | C(C)N(CC)CC | C6H15N
reactant | bis(1,1-dimethylethyl) dicarbonate | 10.37 mmol, 2.263 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1,1-Dimethylethyl 7-bromo-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 2.76 g | BrC=1C=CC2=C(CN(CCO2)C(=O)OC(C)(C)C)C1 | C14H18BrNO3
